US06043242
A1. [4(3-Mercaptopropylsulfanyl)-3-methylpyridin-2-yl]-methanol
A solution of potassium carbonate (691 g, 5 mol) in 1.5 l of water is treated with 1,3-propanedithiol (432.8 g, 4 mol) under a nitrogen atmosphere and heated to 80° C. A solution of (4-chloro-3-methylpyridin-2-yl)methanol hydrochloride (194.1 g, 1 mol) in 400 ml of water is then added dropwise at this temperature with vigorous stirring during the course of about 2 h. The mixture is additionally stirred at 80 to 85° C. for 18 h and then cooled to room temperature. After separating off the aqueous phase, the organic phase is treated with toluene (1.5 l) and washed with water (2×1 l). The organic phase is then extracted with 2M hydrochloric acid (2 l). The hydrochloric acid phase is concentrated and the residue is recrystallized from isopropanol. 159 g (60%) of the title compound are isolated. The crude product is employed without further purification for the synthesis of the compound of Example 1.

reactant | potassium carbonate | 5 mol, 691 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-propanedithiol | 4 mol, 432.8 g | C(CCS)S | C3H8S2
reactant | (4-chloro-3-methylpyridin-2-yl)methanol hydrochloride | 1 mol, 194.1 g | Cl.ClC1=C(C(=NC=C1)CO)C
solvent | water | 1.5 l | O | H2O
solvent | water | 400 ml | O | H2O
product | [4(3-Mercaptopropylsulfanyl)-3-methylpyridin-2-yl]-methanol | 159 g, 60% | SCCCSC1=C(C(=NC=C1)CO)C | C10H15NOS2
